US09102621B2
4-((5-Chloropyridin-3-yloxy)methyl)-N-(methylsulfonyl)benzamide
To a suspension of 4-{[(5-chloropyridin-3-yl)oxy]methyl}benzoic acid (Preparation 17, 0.16 g, 0.60 mmol) in THF (6 mL) was added WSCDI (0.1 g, 0.62 mmol) and the reaction was heated at reflux for 30 minutes. The reaction mixture was cooled to room temperature and methanesulphonamide (0.060 g, 0.64 mmol) and DBU (0.09 g, 0.060 mmol) were added. The reaction mixture was stirred at room temperature for 1 hour and then partitioned between DCM (30 mL) and aqueous hydrochloric acid (1 M, 8 mL). The organic layer was separated and dried over magnesium sulfate and evaporated in vacuo. The resulting crude was triturated with diethyl ether (4 mL) and methanol (1 mL) to afford the title compound as a beige solid (0.053 g, 51%).

reactant | 4-{[(5-chloropyridin-3-yl)oxy]methyl}benzoic acid | 0.60 mmol, 0.16 g | ClC=1C=C(C=NC1)OCC1=CC=C(C(=O)O)C=C1 | C13H10ClNO3
reactant | methanesulphonamide | 0.64 mmol, 0.060 g | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 0.060 mmol, 0.09 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-((5-Chloropyridin-3-yloxy)methyl)-N-(methylsulfonyl)benzamide | 0.053 g, 51% | ClC=1C=C(C=NC1)OCC1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C14H13ClN2O4S
